US06503949B1
3-{4-[1-(1-Cyclopropanecarbonylpiperidin-4-yl)-3-(4-trifluoromethoxy-phenyl)ureidomethyl]-benzoylamino}propionic Acid Methyl Ester
To a solution of 3-{4-[1-piperidin-4-yl-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}propionic acid methyl ester hydrochloride (0.20 g) in DMF (5 mL) was added diisopropylethylamine (0.30 mL) and cyclopropylcarboxylic acid chloride (0.16 mL). The mixture was stirred at 25° C. overnight. Water (100 mL) and ethyl acetate (100 mL) were added, the phases separated and the organic phase was washed with a solution of NH4Cl (sat., 2×50 mL) and water (50 mL). Upon drying with MgSO4 the solvent was evaporated and the residue purified by column chromatography.

reactant | 3-{4-[1-piperidin-4-yl-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}propionic acid methyl ester hydrochloride | 0.20 g | Cl.COC(CCNC(C1=CC=C(C=C1)C(C1CCNCC1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O)=O
reactant | diisopropylethylamine | 0.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylcarboxylic acid chloride | 0.16 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-{4-[1-(1-Cyclopropanecarbonylpiperidin-4-yl)-3-(4-trifluoromethoxy-phenyl)ureidomethyl]-benzoylamino}propionic Acid Methyl Ester | COC(CCNC(C1=CC=C(C=C1)C(C1CCN(CC1)C(=O)C1CC1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C29H33F3N4O6
